US09278922B2
N,N-bis(4-nitrobenzyl)cyclopentanamine
To a solution of cyclopentylamine (0.148 mL, 1.5 mmol) in N,N-dimethylformamide (2 mL) was added potassium carbonate (622 mg, 4.50 mmol) followed by 1-(bromomethyl)-4-nitrobenzene (648 mg, 3.00 mmol). The resulting mixture was stirred at rt for 16 hours, more 1-(bromomethyl)-4-nitrobenzene was added (324 mg, 1.5 mmol), and stirring was continued for an additional 2 hours. The mixture was diluted with water, extracted with CH2Cl2, and the organic layer was dried (Na2SO4), filtered and concentrated. The crude product was purified by precipitation from methanol to afford the title compound (554 mg, quant.). MS (ESI) m/z 356.0 (M+H)+.

reactant | cyclopentylamine | 1.5 mmol, 0.148 mL | C1(CCCC1)N | C5H11N
reactant | potassium carbonate | 4.50 mmol, 622 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(bromomethyl)-4-nitrobenzene | 3.00 mmol, 648 mg | BrCC1=CC=C(C=C1)[N+](=O)[O-] | C7H6BrNO2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N,N-bis(4-nitrobenzyl)cyclopentanamine | 554 mg | [N+](=O)([O-])C1=CC=C(CN(C2CCCC2)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C19H21N3O4
